US07625901B2
Step A. (4-Nitro-1,2-phenylene)dimethanol
A solution of 4-nitrophthalic acid (40 g, 189.5 mmol) in THF (500 mL) was added dropwise over 1.5 h to a solution of borane-THF complex (1 M, 490 mL, 490 mmol), keeping the reaction temperature between 0° C. and 5° C. After the addition, the reaction mixture was allowed to warm slowly to ambient temperature and stirred for 18 h. MeOH (100 mL) was added carefully and the precipitated solid dissolved. The mixture was concentrated in vacuo to about 500 mL, cooled to 0° C., and 10 N NaOH was added to adjust the pH to 10-11. This mixture was extracted with EtOAc (3×600 mL) and the combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound.

reactant | 4-nitrophthalic acid | 189.5 mmol, 40 g | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H5NO6
reactant | MeOH | 100 mL | CO | CH4O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | (4-Nitro-1,2-phenylene)dimethanol | [N+](=O)([O-])C1=CC(=C(C=C1)CO)CO | C8H9NO4
